US07250515B2
To the solution of 6-hydroxymethyl-4-isobutyl-1,4-dihydro-quinoline-3-carbonitrile (200 mg, 0.83 mmol) in chloroform (6 mL) was added manganese dioxide (300 mg). The mixture was stirred at reflux for 10 h. After removal of the solid by filtration, the filtrate was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 0%-30% ethyl acetate in hexanes in 30 min) afforded 6-formyl-4-isobutyl-quinoline-3-carbonitrile (110 mg, 56%) as a white solid. LC-MS m/e 239 (MH+).

reactant | 6-hydroxymethyl-4-isobutyl-1,4-dihydro-quinoline-3-carbonitrile | 0.83 mmol, 200 mg | OCC=1C=C2C(C(=CNC2=CC1)C#N)CC(C)C | C15H18N2O
solvent | chloroform | 6 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 300 mg | [O-2].[O-2].[Mn+4]
product | 6-formyl-4-isobutyl-quinoline-3-carbonitrile | 110 mg, 56% | C(=O)C=1C=C2C(=C(C=NC2=CC1)C#N)CC(C)C | C15H14N2O
